US04107326
1-(2,6-Dichlorobenzylideneamino)-3-(2,6-difluorobenzyl)guanidine
A solution of 7.80 g. of methyl 3-(2,6-dichlorobenzylidene)thiocarbazimidate hydroiodide (U.S. Pat. No. 3,657,337) and 2.86 g. of 2,6-difluorobenzylamine (prepared from 2,6-difluorobenzylamine hydrochloride) in 100 ml. of n-butanol and 20 ml. of water is heated at reflux for 66 hours. The solvent is removed under reduced pressure and the residual yellow oil is dissolved in aqueous ethanol and made basic with 10N NaOH. The resultant mixture is extracted with chloroform and the chloroform extract is evaporated under reduced pressure to give a yellow gum. This gum in ethyl acetate is purified by silica gel column chromatography, giving a colorless solid. This solid is recrystallized from aqueous ethanol, giving the desired product as colorless crystals, m.p. 168.5°-169.5° C.

reactant | methyl 3-(2,6-dichlorobenzylidene)thiocarbazimidate hydroiodide | I.ClC1=C(C=NNC(SC)=N)C(=CC=C1)Cl
reactant | 2,6-difluorobenzylamine | FC1=C(CN)C(=CC=C1)F | C7H7F2N
reactant | n-butanol | C(CCC)O | C4H10O
solvent | water | O | H2O
product | 1-(2,6-Dichlorobenzylideneamino)-3-(2,6-difluorobenzyl)guanidine | ClC1=C(C=NNC(=N)NCC2=C(C=CC=C2F)F)C(=CC=C1)Cl | C15H12Cl2F2N4
